US07407963B2
4-methoxy-2-nitro-N-(1-phenylmethyl-4-piperidinyl)benzylamine
A mixture of 3.0 g (16.561 mmol) of 4-methoxy-2-nitrobenzaldehyde, 3.2 g (16.817 mmol) of 1-phenylmethyl-4-piperidinamine and 30 mL of methanol was stirred for 2 hours at ambient temperature. Then 681 mg (18.0 mmol) of sodium borohydride was added and stirring was continued for one hour at ambient temperature. The mixture was stirred into 500 mL of ice water and carefully acidified with 10% hydrochloric acid. The solution obtained was washed twice with 50 mL of tert-butylmethylether, then made alkaline with 20% sodium hydroxide solution and extracted exhaustively with tert-butylmethylether. The final extracts obtained were combined, washed twice with 20 mL of water, dried over magnesium sulfate and evaporated down in vacuo. The colorless oil remaining was used in the next step without any further purification. Yield: 3.2 g (54% of theoretical). IR (KBr): no C═O; MS: M+=355.

reactant | 4-methoxy-2-nitrobenzaldehyde | 16.561 mmol, 3.0 g | COC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | 1-phenylmethyl-4-piperidinamine | 16.817 mmol, 3.2 g | C1(=CC=CC=C1)CN1CCC(CC1)N | C12H18N2
reactant | sodium borohydride | 18.0 mmol, 681 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | 4-methoxy-2-nitro-N-(1-phenylmethyl-4-piperidinyl)benzylamine | COC1=CC(=C(CNC2CCN(CC2)CC2=CC=CC=C2)C=C1)[N+](=O)[O-] | C20H25N3O3
